* source SIMULATE7
C_Cc1         N00271 N00278  100uF  TC=0,0 
C_Cc2         VCE VOUT  100uF  TC=0,0 
R_Rs         VS N00271  0.5k TC=0,0 
R_R2         0 N00278  18k TC=0,0 
R_R1         N00278 VCC  120k TC=0,0 
R_RC         VCE VCC  0.75k TC=0,0 
R_RL         0 VOUT  {RL} TC=0,0 
Q_Q1         VCE N00278 0 Q2N3904
V_Vs         VS 0  
+SIN 0 50mV 1kHz 0 0 0
V_VCC         VCC 0 15V
.PARAM  rl=0.51k
